US08492006B2
Synthesis of 6-bromo-2-(3,5-dimethylphenyl)quinoline
(2-Amino-5-bromophenyl)methanol (22 g, 109 mmol), 3,5-dimethylacetophenone (24.2 g, 163 mmol), RuCl2(PPh3)3 (1.05 g, 1.09 mmol), KOH (11.0 g, 196 mmol) were refluxed in 270 mL of toluene for 18 h. Water was collected from the reaction using a Dean-stark trap. The reaction mixture was allowed to cool to room temperature and filtered through a silica gel plug and eluted with 5% ethyl acetate in hexanes. The product was further purified by Kugelrohr distillation and crystallization from methanol.

reactant | (2-Amino-5-bromophenyl)methanol | 109 mmol, 22 g | NC1=C(C=C(C=C1)Br)CO | C7H8BrNO
reactant | 3,5-dimethylacetophenone | 163 mmol, 24.2 g | CC1=CC(=CC(=C1)C(=O)C)C | C10H12O
reactant | KOH | 196 mmol, 11.0 g | [OH-].[K+]
solvent | toluene | 270 mL | C1(=CC=CC=C1)C | C7H8
product | 6-bromo-2-(3,5-dimethylphenyl)quinoline | BrC=1C=C2C=CC(=NC2=CC1)C1=CC(=CC(=C1)C)C | C17H14BrN
